US05472958
5b. (S)-N-BOC-2-(3-fluorophenoxymethyl)-pyrrolidine
To 100 mL of THF cooled to 0° C. was added 5.9 g (22.4 mmol) of triphenylphosphine (TPP) (Aldrich) and 5.2 g (22.4 mmol) of di-t-butyl azodicarboxylate (TBAD) (Aldrich), and the reaction was stirred for 0.5 hr. To this solution was added 3.0 g (14.9 mmol) of the (S)-1-t-BOC-2-pyrrolidinemethanol, from step 5a above, and 2.5 g (22.4 mmol) of 3-fluorophenol (Aldrich). The reaction mixture was stirred at room temperature for 48 hr. The THF was removed by evaporation, and EtOAc/CHCl3/hexanes was added, and the precipitated triphenylphosphine oxide by-product removed by filtration. The filtrate was concentrated then chromatographed over silica gel, eluting with 2% CHCl3 in hexane, then 50% CHCl3 in hexane, to afford the product (1.5 g).

reactant | triphenylphosphine | 22.4 mmol, 5.9 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | di-t-butyl azodicarboxylate | 22.4 mmol, 5.2 g | N(=NC(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C10H18N2O4
reactant | 3-fluorophenol | 22.4 mmol, 2.5 g | FC=1C=C(C=CC1)O | C6H5FO
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | (S)-N-BOC-2-(3-fluorophenoxymethyl)-pyrrolidine | 1.5 g | C(=O)(OC(C)(C)C)N1[C@@H](CCC1)COC1=CC(=CC=C1)F | C16H22FNO3
